US07666873B2
(2R,5S)-2′-Cyano-4-(4-cyano-3-methoxyphenyl)-2,5-dimethyl-5′-trifluoromethylpiperazine-1-carboxanilide
Into 10 ml of THF was suspended 80 mg of 60% NaH, and then 337 mg of 2-amino-4-trifluoromethylbenzonitrile was added thereto at room temperature, followed by 30 minutes of stirring at room temperature. Then, 558 mg of (2R,5S)-4-[4-cyano-3-(trifluoromethyl)phenyl]-2,5-dimethylpiperazine-1-carbonyl chloride was added thereto, followed by 17 hours of stirring at room temperature. Water was added to the reaction solution, followed by extraction with chloroform. After the organic layer was washed with water, the solvent was removed by evaporation. The resulting residue was subjected to silica gel column chromatography to obtain 358 mg of the title compound from an eluate using hexane-ethyl acetate (1:1, v/v).

reactant | THF | 10 ml | C1CCOC1 | C4H8O
reactant | NaH | 80 mg | [H-].[Na+]
reactant | 2-amino-4-trifluoromethylbenzonitrile | 337 mg | NC1=C(C#N)C=CC(=C1)C(F)(F)F | C8H5F3N2
reactant | (2R,5S)-4-[4-cyano-3-(trifluoromethyl)phenyl]-2,5-dimethylpiperazine-1-carbonyl chloride | 558 mg | C(#N)C1=C(C=C(C=C1)N1C[C@H](N(C[C@@H]1C)C(=O)Cl)C)C(F)(F)F | C15H15ClF3N3O
solvent | Water | O | H2O
product | (2R,5S)-2′-Cyano-4-(4-cyano-3-methoxyphenyl)-2,5-dimethyl-5′-trifluoromethylpiperazine-1-carboxanilide | 358 mg | C(#N)C1=C(NC(=O)N2[C@@H](CN([C@H](C2)C)C2=CC(=C(C=C2)C#N)OC)C)C=C(C=C1)C(F)(F)F | C23H22F3N5O2
